US07547691B2
2-[5-Methyl-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide
Using the method of 2-[5-methyl-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide, the title compound is synthesized from 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 4-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester and isolated as a yellow solid. ES+(m/z) 450 [M+H].

reactant | 2-[5-methyl-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCC2CCNCC2 | C24H29N5OS
reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)Cl | C17H14ClN3OS
reactant | 4-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
product | 2-[5-Methyl-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CCNCC2 | C25H31N5OS
